US07572809B2
Similar procedure as described in example 384 was used, starting from 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid and 1-(2-Methoxy-ethyl)-piperazine to give [1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-[4-(2-methoxy-ethyl)-piperazin-1-yl]-methanone. LC-MS: m/e 453 (MH+).

reactant | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)O)NC1=NNC(=C1)C | C17H18N4O3
reactant | 1-(2-Methoxy-ethyl)-piperazine | COCCN1CCNCC1 | C7H16N2O
product | [1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-[4-(2-methoxy-ethyl)-piperazin-1-yl]-methanone | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)N1CCN(CC1)CCOC)NC1=NNC(=C1)C | C24H32N6O3
